US08835465B2
2-Chloro-6-(5-cyclopropyl-1H-pyrazol-3-ylamino)-5-fluoro-4-iodonicotinonitrile
The crude 2,6-dichloro-5-fluoro-4-iodonicotinonitrile (8.0 g, 25.2 mmol), Et3N (3.3 g, 32.8 mmol) and 5-cyclopropyl-1H-pyrazol-3-amine (3.1 g, 25.2 mmol) were placed in ACN (50 ml) and the resulting solution was heated to 80° C. for 24 hours. The reaction was cooled to room temperature, filtered, and the resulting solid was washed with cold ACN, dried, and collected to give the title compound (3.0 g, 29%). MS: Calcd.: 403. Found: [M+H]+ 404.

reactant | 2,6-dichloro-5-fluoro-4-iodonicotinonitrile | 25.2 mmol, 8.0 g | ClC1=C(C#N)C(=C(C(=N1)Cl)F)I | C6Cl2FIN2
reactant | Et3N | 32.8 mmol, 3.3 g | CCN(CC)CC | C6H15N
reactant | 5-cyclopropyl-1H-pyrazol-3-amine | 25.2 mmol, 3.1 g | C1(CC1)C1=CC(=NN1)N | C6H9N3
solvent | ACN | 50 ml | C(C)#N | C2H3N
product | 2-Chloro-6-(5-cyclopropyl-1H-pyrazol-3-ylamino)-5-fluoro-4-iodonicotinonitrile | 3.0 g, 29% | ClC1=C(C#N)C(=C(C(=N1)NC1=NNC(=C1)C1CC1)F)I | C12H8ClFIN5
